US07777047B2
7-[(cyclopropylmethyl)(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)-1H-indole-2-carboxylic acid
To a mixture of ethyl 7-[(cyclopropylmethyl)(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)-1H-indole-2-carboxylate (650 mg), ethanol (10 mL) and tetrahydrofuran (10 mL) was added 2N aqueous sodium hydroxide solution (3.43 mL) at room temperature, and the mixture was stirred at 50° C. for 5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate and 1N aqueous hydrochloric acid. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtered, and the filtrate was concentrated under reduced pressure to give the title compound (630 mg, yield 99%) as a colorless amorphous solid.

reactant | ethyl 7-[(cyclopropylmethyl)(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)-1H-indole-2-carboxylate | 650 mg | C1(CC1)CN(C=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCOC)S(=O)(=O)C1=NC=CC=C1 | C23H27N3O6S
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2N, 3.43 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-[(cyclopropylmethyl)(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)-1H-indole-2-carboxylic acid | 630 mg, yield 99% | C1(CC1)CN(C=1C=C(C=C2C=C(NC12)C(=O)O)OCCOC)S(=O)(=O)C1=NC=CC=C1 | C21H23N3O6S
